US04440940
Preparation of N-[2-(4-tetradecenylamino)benzoyl]alanine
A solution pf 4.75 g. of N-trifluoroacetyl-2-(tetradecenylamino)benzoyl chloride and 1.2 g. of triethylamine in 200 ml. of warm ether is treated with 1.55 g. alanine ethyl ester and refluxed for 24 hours. The hot solution is filtered, the residue is washed with hot ether, and the solvent is evaporated from the combined filtrate and washings. After treatment of the residue with aqueous methanolic potassium carbonate, the product is precipitated by acidification, filtered and dried. Crystallization from acetone yields the product as a white, crystalline solid.

reactant | N-trifluoroacetyl-2-(tetradecenylamino)benzoyl chloride | FC(C(=O)N(C1=C(C(=O)Cl)C=CC=C1)C=CCCCCCCCCCCCC)(F)F | C23H31ClF3NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | alanine ethyl ester | C(C)OC([C@@H](N)C)=O | C5H11NO2
solvent | ether | CCOCC | C4H10O
product | N-[2-(4-tetradecenylamino)benzoyl]alanine | C(CCC=CCCCCCCCCC)NC1=C(C(=O)N[C@@H](C)C(=O)O)C=CC=C1 | C24H38N2O3
